US04183955
A solution of 2,4-dimethoxy-2,4,6-cycloheptatrien-1-one [described above in(b),2.4 g] in methanol (70 ml) is cooled to -25° C. and saturated with ammonia gas. The solution is heated in a pressure bottle at 80° C. for 4 hours and cooled to -70° C. The pressure bottle is opened and the solvent is evaporated to give 2-amino-4-methoxy-2,4,6-cycloheptatrien-1-one.

reactant | 2,4-dimethoxy-2,4,6-cycloheptatrien-1-one | 2.4 g | COC=1C(C=CC=C(C1)OC)=O | C9H10O3
reactant | ammonia | N | H3N
solvent | methanol | 70 ml | CO | CH4O
product | 2-amino-4-methoxy-2,4,6-cycloheptatrien-1-one | NC=1C(C=CC=C(C1)OC)=O | C8H9NO2
